US04171431
A reaction mixture consisting of 1.3 gm. (0.010 mole) 5,6-dihydro-5-methyl-s-triazine-2,4(1H,3H)-dione in 25 ml. pyridine and 6 ml. of bis-trimethylsilyltrifluoroacetamide containing 1% trimethylsilyl chloride is warmed to 50° C. and stirred for 16 hrs. The mixture is then cooled to 25° C., and the pyridine medium along with other volatile components are removed by evaporation under reduced pressure at 60° C. The residue thus obtained is purified by distilling added toluene under reduced pressure. The toluene distillation is repeated, and any traces of toluene are removed by holding the residue under reduced pressure for 16 hrs. at 25° C. There is thus obtained a quantity (about 80% yield) of 2,4-bis-(trimethylsilyloxy)-5,6-dihydro-5-methyl-s-triazine.

reactant | 5,6-dihydro-5-methyl-s-triazine-2,4(1H,3H)-dione | 0.010 mole | CN1C(NC(NC1)=O)=O | C4H7N3O2
reactant | bis-trimethylsilyltrifluoroacetamide | C[Si](C)(C)N(C(C(F)(F)F)=O)[Si](C)(C)C | C8H18F3NOSi2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2,4-bis-(trimethylsilyloxy)-5,6-dihydro-5-methyl-s-triazine | about 80% yield | C[Si](OC1=NCN(C(=N1)O[Si](C)(C)C)C)(C)C | C10H23N3O2Si2
